US09102674B2
According to Scheme A, ethyl 2-(7-hydroxyquinolin-3-yl)acetate (VIII) is obtained in four steps from commercially available synthetically accessible m-anisidine (II). m-Anisidine is treated with ethyl succinyl chloride in a solvent such as THF, a suitably selected tertiary organic base such as triethylamine (TEA), and the like, at a temperature between 0° C. to about 65° C. and the reflux temperature of the solvent, to afford ethyl 4-((3-methoxyphenyl)amino)-4-oxobutanoate. Subsequent chlorination and cyclization of ethyl 4-((3-methoxyphenyl)amino)-4-oxobutanoate with phosphoryl chloride and DMF, at temperatures ranging from 0° C. to about 80° C., preferably 0° C. for 20 minutes followed by 75° C. for 1.5 h, provides ethyl 2-(2-chloro-7-methoxyquinolin-3-yl)acetate (VIa) and ethyl 2-(2-chloro-5-methoxyquinolin-3-yl)acetate (VIb). Reduction of compounds (VIa) and (VIb) employing conditions known to one skilled in the art, for example Pd/C under hydrogenation conditions, in a solvent such as MeOH or EtOH, provides ethyl 2-(7-methoxyquinolin-3-yl)acetate (VII). Demethylation of ethyl 2-(7-methoxyquinolin-3-yl)acetate (VII), employing conditions known to one skilled in the art, for example, HBr in H2O or HOAc, at temperatures ranging from 95° C. to about 110° C., preferably 105° C., for a period of about 48 to 96 h, preferably 96 h. Subsequent esterification of 7-hydroxy-2-quinoline-3-carboxylic acid employing methods previously described provides ethyl 2-(7-hydroxyquinolin-3-yl)acetate (VIII).

reactant | m-Anisidine | COC1=CC(=CC=C1)N | C7H9NO
reactant | ethyl succinyl chloride | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
reactant | THF | C1CCOC1 | C4H8O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | ethyl 4-((3-methoxyphenyl)amino)-4-oxobutanoate | COC=1C=C(C=CC1)NC(CCC(=O)OCC)=O | C13H17NO4
